US07851157B1
The thus obtained 6-O-diphenylcarbamoyl-2-N-methylcarbamoyldeoxyguanosine (643 mg, 1.24 mmol) was azeotroped with anhydrous pyridine three times and then dissolved in anhydrous pyridine (21 mL), and 4,4′-dimethoxytrityl chloride (629 mg, 1.86 mmol) was added thereto. The mixture was stirred at room temperature for 3 hours. Then, the reaction was terminated by adding sodium bicarbonate water (5 mL) thereto. The reaction solution was extracted with ethyl acetate (100 mL)/sodium bicarbonate water (100 mL) once and then with ethyl acetate (100 mL)/brine (80 mL) twice. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (N60: spherical neutral silica gel) with ethyl acetate/50% to 60% hexane containing 1% triethylamine to give 5′-O-(4,4′-dimethoxytrityl)-6-O-diphenylcarbamoyl-2-N-methylcarbamoyldeoxyguanosine (889 mg, 87%).

reactant | 6-O-diphenylcarbamoyl-2-N-methylcarbamoyldeoxyguanosine | 1.24 mmol, 643 mg | C1(=CC=CC=C1)N(C(=O)OC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=C(N1)NC(NC)=O)C1=CC=CC=C1 | C25H25N7O6
reactant | 4,4′-dimethoxytrityl chloride | 1.86 mmol, 629 mg | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | pyridine | 21 mL | N1=CC=CC=C1 | C5H5N
product | 5′-O-(4,4′-dimethoxytrityl)-6-O-diphenylcarbamoyl-2-N-methylcarbamoyldeoxyguanosine | 889 mg, 87% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C=NC=3C(OC(N(C4=CC=CC=C4)C4=CC=CC=C4)=O)=NC(NC(NC)=O)=NC23)O)C=C1 | C46H43N7O8
